US08580794B2
Trans-tert-butyl 4-morpholinocyclohexylcarbamate
A solution of tert-butyl-4-aminocyclohexylcarbamate (20.32 g, 95 mmol), bis(2-bromoethyl)ether (14.30 ml, 114 mmol) and triethylamine (33.0 ml, 237 mmol) in N,N-dimethylformamide (200 ml) was stirred for 16 hours at 70° C. The reaction mixture was cooled down to room temperature, concentrated and the product was extracted with ethyl acetate. The organic layer was washed with sodium carbonate solution (15% aq.), dried and concentrated. The product was used in next step without purification.

reactant | tert-butyl-4-aminocyclohexylcarbamate | 95 mmol, 20.32 g | C(C)(C)(C)OC(NC1CCC(CC1)N)=O | C11H22N2O2
reactant | bis(2-bromoethyl)ether | 114 mmol, 14.30 ml | BrCCOCCBr | C4H8Br2O
reactant | triethylamine | 237 mmol, 33.0 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Trans-tert-butyl 4-morpholinocyclohexylcarbamate | O1CCN(CC1)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C15H28N2O3
